US04882323
Hexahydro-1-(2-Nitrophenyl)-5-(Phenylmethyl)-1H-1,2,5-Triazepine (Xb)
A mixture of hexahydro-5-(phenylmethyl)-1H-1,2,5-triazepine dihydrochloride (35.0 g), 1-fluoro-2-nitrobenzene (21 ml), N,N-diisopropylethylamine (81 ml) in N,N-dimethylformamide (400 ml) was stirred and heated at 75°-80° (under reflux) under ntirogen for 5 hours. The solution was evaporated to a syrup under oil pump vacuum and the residue was mixed with chloroform and dilute sodium hydroxide. The aqueous phase was extracted several times with chloroform. The combined extracts were dried (MgSO4) and evaporated to a syrup wich was subjected to an oil pump vacuum. The syrup in toluene was applied to a column (94×8.7 cm) of dry column grade neutral alumina prepacked in toluene. Elution with toluene removed a faster moving yellow impurity. Fractions were monitored by t.l.c. on Alox-25 uv254 plates (Brinkmann) with chloroform as developer. As soon as the major component started to issue the eluting solvent was changed to toluene-chloroform (4:1), toluene-chloroform (1:1) and finally chloroform. Appropriate fractions were evaporated to a syrup which was crystallized from ether-heptane; wt. 35.7 g (86%), mp=90°-92°. Recrystallization from chloroform-ether-heptane gave pure titled product, mp=90°-92°.

reactant | hexahydro-5-(phenylmethyl)-1H-1,2,5-triazepine dihydrochloride | 35.0 g | Cl.Cl.C1(=CC=CC=C1)CN1CCNNCC1
reactant | 1-fluoro-2-nitrobenzene | 21 ml | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | N,N-diisopropylethylamine | 81 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | Hexahydro-1-(2-Nitrophenyl)-5-(Phenylmethyl)-1H-1,2,5-Triazepine | [N+](=O)([O-])C1=C(C=CC=C1)N1NCCN(CC1)CC1=CC=CC=C1 | C17H20N4O2
